US04001426
Acylation of 2-[4'-(2-bromoethoxy)phenyl]benzofuran with 3,5-diethylbenzoyl chloride as described hereinabove gave 2-[4'-(2-bromoethoxy)phenyl]-3-(3',5'-diethylbenzoyl)benzofuran.

reactant | 2-[4'-(2-bromoethoxy)phenyl]benzofuran | BrCCOC1=CC=C(C=C1)C=1OC2=C(C1)C=CC=C2 | C16H13BrO2
reactant | 3,5-diethylbenzoyl chloride | C(C)C=1C=C(C(=O)Cl)C=C(C1)CC | C11H13ClO
product | 2-[4'-(2-bromoethoxy)phenyl]-3-(3',5'-diethylbenzoyl)benzofuran | BrCCOC1=CC=C(C=C1)C=1OC2=C(C1C(C1=CC(=CC(=C1)CC)CC)=O)C=CC=C2 | C27H25BrO3
